US07012075B2
To tert-butyl 4-(4-bromophenyl)-1-piperazinecarboxylate (118.30 g, 346.9 mmol) in dry THF/MePh (1/1, 1.5 L) at −78° C. under dry nitrogen was added n-BuLi (2.5 M, 160 mL, 398.9 mmol) dropwise and the reaction was stirred at −78° C. for 20 minutes. Triisopropyl borate (96.1 mL, 416.3 mmol) was added dropwise and the reaction was warmed to 0° C. and stirred for 2 hours. Aqueous sat. NH4Cl (400 mL), water (100 mL) and 1 equivalent of H3PO4 (20 ML) were added and the mixture stirred for 15 minutes and then concentrated to a volume of approximately 200 mL (at which stage the mixture became bluish and a precipitate formed). A dropping funnel was charged with heptane (800 mL) and the solvent was added to the reaction mixture with vigorous stirring over a period of one hour and the resulting suspension was stirred overnight. The suspension was filtered, washed with heptane (2×200 mL), and dried over the weekend in vacuo to afford 4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenylboronic acid.

reactant | tert-butyl 4-(4-bromophenyl)-1-piperazinecarboxylate | 346.9 mmol, 118.30 g | BrC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrN2O2
reactant | n-BuLi | 398.9 mmol, 2.5 M, 160 mL | [Li]CCCC
reactant | Triisopropyl borate | 416.3 mmol, 96.1 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | NH4Cl | 400 mL | [NH4+].[Cl-]
reactant | H3PO4 | 1 equivalent | OP(=O)(O)O | H3O4P
solvent | THF MePh | 1.5 L | C1CCOC1.CC1=CC=CC=C1
solvent | heptane | 800 mL | CCCCCCC | C7H16
solvent | water | 100 mL | O | H2O
product | 4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenylboronic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)B(O)O | C15H23BN2O4
